### PR TITLE
[CBR-273] UTxO (Chapter 2 formalization)

### PR DESCRIPTION
**Pull request by polinavino**
definitions , operations, and proofs of basic properties of UTxO as well as some sanity check examples

## Type of change

- [ ] 🐞 Bug fix (non-breaking change which fixes an issue)
- [ ] 🛠 New feature (non-breaking change which adds functionality)
- [ ] ⚠️ Breaking change (fix or feature that would cause existing functionality to change)
- [ ] 🏭 Refactoring that does not change existing functionality but does improve things like code readability, structure etc
- [ ] 🔨 New or improved tests for existing code
- [ ] ⛑ git-flow chore (backport, hotfix, etc)

## Developer checklist

- [ ] I have read the [style guide](https://github.com/input-output-hk/cardano-sl/blob/develop/docs/style-guide.md) document, and my code follows the code style of this project.
- [ ] If my code deals with exceptions, it follows the [guidelines](https://github.com/input-output-hk/cardano-sl/blob/develop/docs/exceptions.md).
- [ ] I have updated any documentation accordingly, if needed. Documentation changes can be reflected in opening a PR on [cardanodocs.com](https://github.com/input-output-hk/cardanodocs.com), amending the inline [Haddock](https://www.haskell.org/haddock/) comments, any relevant README file or one of the document listed in the [docs](https://github.com/input-output-hk/cardano-sl/tree/develop/docs) directory.

## Testing checklist

- [ ] I have added tests to cover my changes.
- [ ] All new and existing tests passed.

### CODE REVIEW

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v [hunk 1]
```diff
@@ -0,0 +1,294 @@
...
+apply or_introl. assert (~((1, p) = (0, (0, 10)))). intro. inversion H2.
+assert (~((1, p) = (2, (0, 20)))). intro. inversion H3.
+assert (~((1, p) = (3, (1, 11)))). intro. inversion H4.
+assert (~((1, p) = (4, (2, 12)))). intro. inversion H5. tauto.
+rewrite H1. rewrite H1 in H.
+apply or_intror. assert (~((2, p) = (0, (0, 10)))). intro. inversion H2.
+assert (~((2, p) = (1, (0, 15)))). intro. inversion H3.
+assert (~((2, p) = (3, (1, 11)))). intro. inversion H4.
+assert (~((2, p) = (4, (2, 12)))). intro. inversion H5. tauto.
+Defined.
```
Comment (edsko) [inline wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v]: Throughout I think these proofs need to be changed to be more readable and more robust. Of course, the first time you're trying to come up with the proof you likely end up with something like this; but it's worth the effort to then spend a bit of time polishing it, to improve readability, robustness and maintainability.

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v [hunk 2]
```diff
@@ -0,0 +1,294 @@
...
+  intro. exists (snd x). destruct x. simpl. auto.
+Qed.
+
+
+(* tactic for proving properties 1 to 9*)
+Ltac prove_prop := 
+  unfold Pow; unfold orPP'; unfold d_r; unfold UTxOinc;
+  unfold andPP'; unfold d_e; unfold r_r;
+  unfold minusPP'; unfold dom; simpl; intros; try tauto;
+  try (apply functional_extensionality); try intros; apply prf_prop_ex; try tauto.
```
Comment (edsko) [inline wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v]: Hurray for automation :D

**Comment by edsko** [comment]
Actually, using a module might be better than a section; see https://github.com/coq/coq/wiki/ModuleSystemTutorial. Then we can instantiate that for `TxId = Tx` in the rest of the development.

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v [hunk 3]
```diff
@@ -0,0 +1,294 @@
...
+
+Axiom unique_id_get : forall id, txid (get_tx_with_id id) = id.
+ 
+(* addresses that belong to the wallet *)
+Variable ours : Addr -> Bk.
+
+(* FILTERED SETS *)
+
+(* our addresses *)
+Definition OurAddr (ours : Addr -> Prop) := { a : Addr | ours a}.
```
[the remark this answers is not in the document]
Comment (polinavino) [reply wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v]: This is leftover from what I was doing before - did not make use of Addr much so I forgot to change it. I will change it.

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v [hunk 4]
```diff
@@ -0,0 +1,294 @@
...
+(* our unspent transaction outputs *)
+Definition OurOuts (ours : Addr -> Prop) : Type := (OurAddr ours) * Coin.
+
+(* OPERATIONS ON UTxO *)
+
+(* OR for predicates *)
+Definition orPP' (A : Type) (P P' : A -> Prop) := (fun a => (P a) \/ (P' a)).
+
+(* NOT for predicates *)
+Definition notP (A : Type) (P : A -> Prop) := (fun a => ~(P a)).
```
[the remark this answers is not in the document]
Comment (polinavino) [reply wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v]: The PP' in orPP' signifies two arguments P and P', not has one, that's what I was going for.

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v [hunk 5]
```diff
@@ -0,0 +1,294 @@
...
+
+(* address *)
+Variable Addr : Type.
+
+(* currency value *)
+Variable Coin : Type. 
+
+(* key pair stand-in *)
+(* what should this type be? *)
+Variable Bk : Type.
```
[the remark this answers is not in the document]
Comment (polinavino) [reply wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v]: Ok

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v [hunk 6]
```diff
@@ -0,0 +1,294 @@
...
+
+(* unspent transaction outputs represented as a finite map *)
+Definition UTxO := FinMap TxIn TxOut.
+
+
+
+(* sanity check examples where TxIn and TxOut are nat's *)
+Definition add_coin_type : Type := nat*nat.
+
+Definition utxo1 (inpf : TxIn = nat) (outpf : TxOut = add_coin_type): UTxO.
```
[the remark this answers is not in the document]
Comment (polinavino) [reply wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v]: Sounds good, thank you!

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v [hunk 7]
```diff
@@ -0,0 +1,294 @@
...
+
+(* FUNCTIONS *)
+
+(* computes transaction id *)
+(* hash map assumed to be the identity! *)
+Variable txid : Tx -> TxId.
+
+Variable get_tx_with_id : TxId -> Tx.
+
+Axiom unique_id : forall tx, get_tx_with_id (txid tx) = tx.
```
[the remark this answers is not in the document]
Comment (polinavino) [reply wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v]: OK!

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v [hunk 8]
```diff
@@ -0,0 +1,294 @@
...
+
+Axiom unique_id_get : forall id, txid (get_tx_with_id id) = id.
+ 
+(* addresses that belong to the wallet *)
+Variable ours : Addr -> Bk.
```
[the remark this answers is not in the document]
Comment (polinavino) [reply wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v]: OK

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v [hunk 9]
```diff
@@ -0,0 +1,430 @@
...
+(* case 0 *) replace (a+0) with a. 
+  replace (c-0) with c. tauto. compute.
+*)
+
+Variable balance : UTxO -> Coin.
+
+(* use property 2.6.1 as the invariant property defining balance *) 
+Variable balance_calc :  (balance (fun u => False) = 0) /\
+  (forall u v, (andPP' TxIn (dom u) (dom v) = (fun _ : TxIn => False) ->
+  balance (orPP' (TxIn * TxOut) u v) = balance u + balance v)).
```
Comment (edsko) [inline wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v]: I don't think this is quite right. You're giving a case for the empty balance and a case for the union of two balances, but if we just have those two cases, we basically end up with the union of a bunch of empty sets -- we need a case for a singleton balance.

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v [hunk 10]
```diff
@@ -0,0 +1,430 @@
...
+  match utxo_list with 
+  | nil => 0
+  | u :: l => (snd (snd u)) + (coin_sum l)
+  end.
+
+(* cannot prove this propery directly by induction from the coin_sum and balance_calc definitions *)
+(* the balance of a utxo represented by the list a::utxo_list is the balance of the utxo 
+   excluding a plus the coin value of a *)
+Variable balance_with_a : forall (utxo_list : list (TxIn*TxOut)) a (utxo:UTxO), 
+  utxo a -> balance utxo = snd (snd a) + coin_sum utxo_list.
```
Comment (edsko) [inline wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v]: I don't understand this at all. You are saying _for any_ `utxo_list` and _any_ `utxo`, as long as we have some element `((id, ix), (a, val))` in that `utxo`, then `balance utxo = val + coin_sum utxo_list`. Surely that cannot be true. I think it's great to attempt to prove that `balance_calc` matches `coin_sum`, but it cannot rely on some additional lemma as input that we do not prove separately -- and unless I'm missing something, it _certainly_ cannot depend on this one, as I think this one is not provable at all :)

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v [hunk 11]
```diff
@@ -0,0 +1,430 @@
...
+
+
+(* any balance calculation for a utxo satisfying the balance_calc invariant property must coincide
+  with the coin_sum balace calculation of this utxo presented as a list *)
+Lemma coin_sum_balance :
+  forall (utxo : UTxO) (l : list (TxIn*TxOut)), (forall t, utxo t <-> In t l) -> 
+    coin_sum l = (balance utxo).
+Proof.
```
Comment (edsko) [inline wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v]: I think you'll not be able to prove this unless you also state a well-formedness condition over the list.

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v (hunk 10 above)
Comment (polinavino) [reply wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v]: This is missing the condition that 
forall b, utxo b /\ b <> a  <-> In b utxo_list

(I left it out but I will fix that right now)
A statement of this sort is necessary for doing the induction on utxo_list  in the coin_sum_balance proof

File: wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v (hunk 9 above)
Comment (edsko) [reply wallet-new/coq-formal-spec/BasicDefinitionsUTxO.v]: I suggest that you define well-formedness inductively. This will give you an induction principle that you can then use to define `balance` and other things in a straight-forward manner.

**Comment by jcmincke** [comment]
@edsko @polinavino Could we finish the review and merge this PR?
